US05977101
c) (±)-2-(Aminomethyl)indoline
LAH (20 mL, 1M solution in THF) was added dropwise through a syringe to a solution of (±)-indoline-2-carboxamide (2.2 g, 13.6 mmol) in anhydrous THF (20 mL) with cooling, and the resulting solution was refluxed under argon for 5 h. More LAH (20 mL) was added, and reflux was continued for another 6 h. 10% aqueous THF was added dropwise with cooling to destroy excess LAH, and then Et2O was added. After stirring for 10 min, the colorless precipitate was removed by filtration and washed with THF. The filtrate was dried (K2CO3), concentrated, and purified by silica gel flash chromatography (90:10:0.2 CH2Cl2 /MeOH/Et3N). The title compound (1.02 g, 51%) was obtained as an amber oil: MS (ES) m/e 149.0 (M+H)+.

reactant | LAH | 1M, 20 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (±)-indoline-2-carboxamide | 13.6 mmol, 2.2 g | N1C(CC2=CC=CC=C12)C(=O)N | C9H10N2O
reactant | LAH | 20 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (±)-2-(Aminomethyl)indoline | 1.02 g, 51% | NCC1NC2=CC=CC=C2C1 | C9H12N2
